US04234588
A mixture of 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine (2.50 g), 2-nitroamino-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone (2.77 g) and ethanol (15 ml) was boiled under reflux for 19 hours and evaporated. The residue was triturated with hot water to leave 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone. A mixture of this pyrimidone (3.04 g), 2 N hydrogen chloride in ethanol (20 ml) and ethanol (80 ml) was boiled under reflux for 48 hours and evaporated to dryness. The residue was recrystallised from methanol/ethanol to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(2-hydroxy-4-pyridylmethyl)-4-pyrimidone trihydrochloride m.p. 181°-185°.

reactant | 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine | 2.50 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-nitroamino-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone | 2.77 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C11H11N5O4
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C21H27N5O3S
